### PR TITLE
more lemmas about extended real numbers

### PR DESCRIPTION
**Pull request by affeldt-aist**
- used in `integral_sketch`

### CODE REVIEW

File: theories/ereal.v [hunk 1]
```diff
@@ -404,9 +446,25 @@ Qed.
 Lemma is_realD x y : is_real (x + y) = (is_real x) && (is_real y).
 Proof. by move: x y => [x| |] [y| |]. Qed.
 
+Lemma real_of_erD x y : is_real x -> is_real y ->
+  (real_of_er (x + y) = real_of_er x + real_of_er y)%R.
```
Comment (CohenCyril) [inline theories/ereal.v:450]:
```suggestion
Lemma real_of_erD : {in is_real &, {morph real_of_er : x y / x + y}}
```
Does it work?

Comment (affeldt-aist) [reply theories/ereal.v]: This one goes through:
```
{in is_real &, {morph real_of_er : x y / x + y >-> (x + y)%R}}
```
Its usage suggests to introduce the `... \is real` notation as per the next commit.

Comment (CohenCyril) [reply theories/ereal.v]: `real` is too overloaded... `finite` would actually be more appropriate but it is also too overloaded...

Comment (CohenCyril) [reply theories/ereal.v]: `finite_num` sounds good.

Comment (affeldt-aist) [reply theories/ereal.v]: are a notation `x \isn't oo`?

Comment (CohenCyril) [reply theories/ereal.v]: mmmh could work...

Comment (CohenCyril) [reply theories/ereal.v]: but then it would result in
```coq
{in predC oo &, {morph real_of_er : x y / x + y >-> (x + y)%R}}
```
which is not as nice as the fully applied use...

Comment (CohenCyril) [reply theories/ereal.v]: moreover we might want to have automatic inference on being finite, not being infinite...

Comment (CohenCyril) [reply theories/ereal.v]: So... no

Comment (CohenCyril) [reply theories/ereal.v]: In this case it should be `\is a fin_num`

File: theories/ereal.v [hunk 2]
```diff
@@ -334,6 +334,46 @@ Notation "\sum_ ( i 'in' A | P ) F" :=
...
+End ERealOrderTheory.
+
+Section finNumPred.
+Context {R : numDomainType}.
+
+Definition fin_num := [qualify a x : er R | (x != -oo) && (x != +oo)].
+Fact fin_num_key : pred_key fin_num. by []. Qed.
+Canonical fin_num_keyd := KeyedQualifier fin_num_key.
+
+Lemma fin_num_def x : (x \is a fin_num) = ((x != -oo) && (x != +oo)).
```
Comment (CohenCyril) [inline theories/ereal.v:369]:
```suggestion
Lemma fin_numE x : (x \is a fin_num) = ((x != -oo) && (x != +oo)).
```
